Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
He was seen by his PCP yesterday, found to have HTN with SBP 
190/120, basic labs checked. Found to have abnormal CKs to 900s 
and blood/protein in UA and recommended to present to the ED. 

Patient reportedly with significant family stress (going through 
divorce). He reported lightheadedness and intermittent chest 
pressure, which he felt was similar to heartburn. No radiation. 
Pressure since this AM has been occurring at rest, previously 
with exertion. Pain is associated with diaphoresis and SOB. 
Episodes last a few minutes and then resolve with rest. He is 
active and works out ___. 

Trop at ___ negative. CXR with no acute cardiopulmonary 
process. Received NTG at ___ with improvement of pressure. 
Received one dose of lovenox at OS___  

Currently denies chest pain/pressure/discomfort.

 In the ED initial vitals were:  98.7 95 150/93 18 99% RA
 EKG: NSR, TWI in inferior and lateral leads V5-V6.
 Labs/studies notable for:  
 - Trop < 0.01, MB 5 CK 537 @ 1735
 - 136 | 102 |12
   ---------------< 97
   4.6 | 21  | .8
 - 7.8 > 16.7/48.6 < 367
 - INR 1.2 PTT 28.2 
 Patient was given:  lorazepam 1 mg, NTG, heparin, metop 12.5, 
atorva 80
 Vitals on transfer:  98 147/77 16
 On the floor, chest pain ___

 
Past Medical History:
 1. CARDIAC RISK FACTORS    
 - Hypertension  
 - Dyslipidemia  
 2. CARDIAC HISTORY  
 - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: None  
 - PACING/ICD: None  
 3. OTHER PAST MEDICAL HISTORY  
 - low testosterone 
 
Social History:
___
Family History:
 Father: MI at 44, CABG at 44, multiple PCIs
 Grandfather: CABG at ___ yo, valve replacement 
 
Physical Exam:
Admission exam:
 VS: 145/13 83 18 97% RA 
 Weight on admission:  100.5 kg
 GENERAL: WDWN male, flushed. Oriented x3. Mood, affect 
appropriate.  
 HEENT: NCAT. EOMI. 
 NECK: Supple with JVP flat at 90 degrees  
 CARDIAC: RR, normal S1, S2. No murmurs/rubs/gallops. 
 LUNGS: CTAB No crackles, wheezes or rhonchi.  
 ABDOMEN: Soft, NTND.  
 EXTREMITIES: No c/c/e. 

Discharge exam:
 Vitals: 98.2  ___  ___  18  98% RA
 Discharge Weight:  100. kg
 Telemetry: BP 160-171, HR 134. Otherwise NSR
 GENERAL: WDWN male, flushed. Oriented x3. Mood, affect 
appropriate.  
 HEENT: NCAT. EOMI. 
 NECK: Supple with JVP flat at 90 degrees  
 CARDIAC: RR, normal S1, S2. No murmurs/rubs/gallops. 
 LUNGS: CTAB No crackles, wheezes or rhonchi.  
 ABDOMEN: Soft, NTND.  
 EXTREMITIES: No c/c/e. 
 
Pertinent Results:
Admission labs
___ 05:32PM BLOOD WBC-7.8 RBC-5.21 Hgb-16.7 Hct-48.6 MCV-93 
MCH-32.1* MCHC-34.4 RDW-13.0 RDWSD-44.3 Plt ___
___ 05:32PM BLOOD Neuts-60.6 ___ Monos-11.0 Eos-2.3 
Baso-0.5 Im ___ AbsNeut-4.72 AbsLymp-1.99 AbsMono-0.86* 
AbsEos-0.18 AbsBaso-0.04
___ 05:32PM BLOOD ___ PTT-28.2 ___
___ 05:32PM BLOOD Glucose-97 UreaN-12 Creat-0.8 Na-136 
K-4.6 Cl-102 HCO3-21* AnGap-18
___ 05:32PM BLOOD CK(CPK)-537*
___ 05:32PM BLOOD cTropnT-<0.01
___ 09:15PM BLOOD Calcium-9.4 Phos-4.3 Mg-2.4
___ 09:15PM BLOOD CK-MB-4 cTropnT-<0.01
___ 03:06AM BLOOD CK-MB-4 cTropnT-<0.01

Discharge labs
___ 06:55AM BLOOD WBC-5.9 RBC-4.93 Hgb-15.9 Hct-47.0 MCV-95 
MCH-32.3* MCHC-33.8 RDW-13.2 RDWSD-46.4* Plt ___
___ 06:55AM BLOOD Glucose-99 UreaN-11 Creat-0.9 Na-139 
K-4.6 Cl-102 HCO3-25 AnGap-17
___ 06:55AM BLOOD Calcium-8.8 Phos-3.0 Mg-2.5
___ 03:06AM BLOOD CK(CPK)-401*

Imaging
___ Stress Echo
IMPRESSION: Good functional exercise capacity. No anginal 
symptoms with 
uninterpretable ECG to the achieved workload. Normal hemodyancmi 

response to exercise. Echo report to be sent seperately. 

The patient exercised for 12 minutes 45 seconds according to a 
___ treadmill protocol ___ METS) reaching a peak heart rate of 
141 bpm and a peak blood pressure of 190/62 mmHg. The test was 
stopped because of fatigue. This level of exercise represents a 
good exercise tolerance for age and gender. The exercise ECG was 
uninterpretable due to resting ST-T wave changes (see exercise 
report for details). There is normal resting blood pressure with 
normal blood pressure and heart rate responses to stress. 

Resting images were acquired at a heart rate of 74 bpm and a 
blood pressure of 138/70 mmHg. These demonstrated normal 
regional and global left ventricular systolic function. Right 
ventricular free wall motion is normal. There is no pericardial 
effusion. Doppler demonstrated no aortic stenosis, aortic 
regurgitation or significant mitral regurgitation or resting 
LVOT gradient. 

Echo images were acquired within 27 seconds after peak stress at 
heart rates of 134 - 124 bpm. These demonstrated appropriate 
augmentation of all left ventricular segments with slight 
decrease in cavity size. There was augmentation of right 
ventricular free wall motion. 

IMPRESSION: Good functional exercise capacity for age and 
gender. Uninterpretable ECG changes in the absence of 2D 
echocardiographic evidence of inducible ischemia to achieved 
workload. Normal hemodynamic response to exercise.  

 
Brief Hospital Course:
Summary
___ M with history of HTN, HLD, low testosterone on 
testosterone, and family history of premature CAD who presented 
to ___ on afternoon of ___ with intermittent episodes of 
CP at rest. This was initially concerning for ACS, however ruled 
out after a stress echo. Likely more consistent with 
hypertensive urgency. He was discharged home in good condition 
with better blood pressure control.  

Acute issues
# Atypical chest pain: Presenting with chest pain c/w unstable 
angina, although may be in the setting of HTN (SBP 190s) after 
not receiving his antihypertnsives and working out on the 
morning of admission. Troponins were negative. He was treated 
initially with heparin and nitro gtt. Stress test ___ 
significant for STD in inferolateral leads however no wall 
motion abnormalities on echocardiogram portion. He was 
discharged home and started on ASA 81 mg daily and atorvastatin 
10mg given cardiac risk. 

#ELEVATED CK: unclear etiology, no myalgias. Could be due to 
work outs. No hematuria or myoglobinuria, previously not on a 
statin due to suggested medication myopathy. Creatinine remains 
wnl. CK improved while inpatient. Was started on atorvastatin 10 
mg which he tolerated in house and restarted home gemfibrozil. 
Recommend repeat CK as an outpatient. 

#HTN URGENCY: Elevated SBPs at PCP and on arrival to ED. ___ 
have contributed to chest pain as above; no evidence of 
stroke/MI/kidney damage to suggest emergency. Had elevated SBP 
after stopping nitro gtt, has significant LVH on echo, likely 
needs uptitration of current antihypertensives since he required 
labetolol hours after stopping nitro gtt. Lisinopril was 
increased to 40 mg with good effect. Could consider adding 
amlodipine 2.5 mg as outpatient if pressures not well 
controlled.

#HLD
Started on atorvastatin 10mg as above, restarted home 
gemfibrozil and should have CK rechecked as outpatient. 

Transitional issues
- Was increased to lisinopril 40mg for better BP control. Should 
have BP and chem10 rechecked at next PCP ___. 
- Started atorvastatin 10mg for cholesterol as above, CK recheck 
as oputpatient and can uptitrate as tolerated for primary 
prevention. Aspirin 81 also started for primary prevention. 
- Will follow with PCP ___ ___. 

 # CODE:  Full (presumed) 
 # CONTACT:  ___ 
    Relationship: WIFE 
    Phone: ___ 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Lisinopril 20 mg PO DAILY 
2. Gemfibrozil Dose is Unknown  PO Frequency is Unknown 
3. Testosterone Cypionate 250 mg IM WEEKLY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*1 
2.  Atorvastatin 10 mg PO QPM 
RX *atorvastatin 10 mg 1 tablet(s) by mouth nightly Disp #*30 
Tablet Refills:*1 
3.  Gemfibrozil 600 mg PO BID  
4.  Lisinopril 40 mg PO DAILY 
RX *lisinopril 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
5.  Testosterone Cypionate 250 mg IM WEEKLY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Atypical chest pain

Secondary: Hypertension, Hyperlipidemia, low testosterone

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You came to the hospital with chest pain that was initially 
concerning for a heart attack. We treated you with medication 
and a stress echocardiogram was reassuring. Please continue the 
medications we have prescribed and followup with your outpatient 
doctors. 

It was a pleasure taking care of you, 
Your ___ medical team
 
Followup Instructions:
___